Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I came for chest pain"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
For further details of the history and presentation, please see 
___, including ___ initial consultation note dated 
___ and Dr. ___ admission note dated ___. 
.
Briefly, this is a ___ year old unmarried, employed ___ man, 
no formal psychiatric history, unremarkable past medical 
history, who initially presented to ___ ED with his employer 
with chest pain; psychiatry initially consulted for concern for 
psychosis and mania with patient admitted to ___ 4 due to 
concern for mania. 
.
Upon initial interview with ___, patient reported 
that about 2 weeks ago he moved to ___ from ___ to 
join a startup ___ and was brought to the ED by his 
employer due to concerns for bizarre behaviors. Mr. ___ 
reported he had slept well for the past ___ days, about 3 hours 
per night and had been increasingly anxious, irritable, with 
poor intake, only drinking protein shakes. Reported having a 
panic attack on ___, which he thought was a heart attack, and 
stated that on ___ his supervisor came to the hotel and 
brought him to the hospital because they reportedly thought he 
may have had a heart attack. 
.
Collateral from his employer revealed that patient was newly 
hired and that they do not know him well. Since this past 
___, patient has been appearing disoriented, talking 
non-stop, and wrote an "intense and confusing email to the whole 
company." On day prior to presentation, patient asked if he 
could meet two of his supervisors outside the office and they 
walked around Back Bay for 1.5 hours and he talked non-stop but 
without logical flow to the conversation. His supervisors also 
noted his physical demeanor had changed and patient was 
perspiring d erratic, as he kept changing hotels. 
.
ED Course: patient was in adequate behavioral control and did 
not require physical or chemical restraints. 
.
Patient seen with ___ and Dr. ___. 
Upon interview, patient reported he was here because "I 
overworked myself for the past month and didn't allow myself to 
use the stress coping strategies that usually work for me." 
Patient reported he had been working ___ hour days for years 
and states that in order to do this, "that means no drugs, as 
little alcohol as possible and running an hour a day." Stated 
that he started a new position as a ___ in 
___ last week. Stated he had been stressed leaving his last 
job, "I had to leave carefully" and had also felt stressed 
because he needed to pack his things and did not have an 
apartment to live in when he moved. Stated that when he started 
his job, "it was like drinking
from the fire hose... I asked my boss for a chance to go for a 
run during the day and the answer was, 'it doesn't look good to 
the other employees.'" Stated he had a long first week and then 
on ___ he had to attend a conference and had to talk all 
day. On the ___ prior to presentation, patient stated he was
"tired, I couldn't talk anymore... I was supposed to meet the 
CEO and I thought it was too much, I should decompress and go 
for a run... the company was freaking out and thinking I might 
bail on them and so they scooped me up and brought me to the ED 
for chest pain-- I was having an anxiety attack at that point. 
Then they told me can't leave." 
.
Mr. ___ stated he did not want to be here but was trying to 
"embrace the suck... I'm nervous here." Admitted to decreased 
need for sleep, stating he typically sleeps ___ hours per night 
and lately he has been sleeping ___ hours. Stated his energy is 
chronically elevated and that he constantly talks rapidly. 
Denied difficulties with appetite on my examination. States he 
enjoys running and misses his dog in ___. Denied SI/HI. 
.
On psychiatric review of systems, patient denied anxiety, 
although he is worried about returning to work and losing his 
job. Denies history of impulsivity, frank grandiosity. Denied 
history of psychosis including AVH, paranoia. Denied history of 
depression, low mood. Denied alcohol use, illicit drug use.  

 
Past Medical History:
Past psychiatric history: 
- Diagnoses: denies
- Hospitalization: denies
- SA/SIB: denies/denies
- Medication Trials: denies
- Therapist/Psychiatrist: none/none 

Past medical history:
___ White Syndrome 

 
Social History:
___
Family History:
Family psychiatric history:
- Diagnoses: father reports history of depression, mother with
possible depression.  
- SA: denies
- Addictions: denies

 
Physical Exam:
VS: 97.5 122/78 55 19 98%RA 
A/B: Appears stated age, dressed casually with good hygiene and 
grooming, calm, slightly hostile with interviewer, good eye 
contact, no psychomotor agitation or retardation noted
S: normal rate, volume, prosody 
M: "fine" 
A: mostly euthymic, mood congruent, appropriate
TC: denies SI/HI, AVH
TP: mostly linear, goal oriented
C: awake, alert and oriented x3 
I/J: limited/limited
 
Pertinent Results:
___ 12:50PM BLOOD WBC-4.1 RBC-5.35 Hgb-16.0 Hct-46.7 MCV-87 
MCH-29.9 MCHC-34.3 RDW-11.6 RDWSD-37.0 Plt ___
___ 12:50PM BLOOD Neuts-48.8 ___ Monos-9.0 Eos-0.5* 
Baso-1.2* Im ___ AbsNeut-1.99 AbsLymp-1.65 AbsMono-0.37 
AbsEos-0.02* AbsBaso-0.05
___ 12:50PM BLOOD Plt ___
___ 12:55PM BLOOD Glucose-118* UreaN-14 Creat-0.9 Na-143 
K-3.9 Cl-104 HCO3-24 AnGap-19
___ 12:50PM BLOOD cTropnT-<0.01
___ 12:55PM BLOOD Calcium-9.4 Phos-3.9 Mg-2.1
___ 12:55PM BLOOD VitB12-___ Folate-15.9
___ 12:55PM BLOOD TSH-1.2
___ 12:50PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
 
Brief Hospital Course:
 Briefly, this is a ___ year old unmarried, employed ___ man, 
o formal psychiatric history, unremarkable past medical history, 
who initially presented to ___ ED with his employer with chest 
pain; psychiatry initially consulted for concern for psychosis 
and mania with patient admitted to ___ due to concern 
for mania with recent decreased need for sleep, increased 
anxiety/irritability, bizarre behaviors, disorganized thought 
process, rapid speech in the setting of recent move and starting 
a new job. 
.
Diagnostically, patient likely does meet criteria for manic 
episode with symptoms as noted above and mental status 
examination notable for rapid, pressured speech, euphoric and 
expansive affect, some irritability on examination with 
collateral from his employer for bizarre behaviors concerning 
for psychosis. Cannot rule out underlying medical condition, 
although medical work up was unremarkable. Low suspicion that 
substance use was playing role in underlying presentation given 
negative tox screen and lack of recent substance use. 
.
#. Legal/Safety: patient admitted on a ___, upon 
admission, refused to sign a CV. Patient reported he felt he was 
here "illegally" and requested an emergency hearing. Of note, 
patient consistently denied suicidal ideation or thoughts of 
self harm and was noted to attend to ADL's appropriately. Given 
this, as well as the patient and the patient's father's strong 
desire to be discharged with plan to follow up with outpatient 
psychiatrist, he did not meet criteria to file a 7&8b and was 
discharged with plan to stay with his father in ___ and ___ 
his new psychiatrist for an intake appointment later on day of 
discharge. Of note, he maintained his safety throughout his 
hospitalization on 15 minute checks and did not require physical 
or chemical restraints.  

#. BPAD: manic, with psychotic features
- Patient was encouraged to attend groups, which he declined. He 
was noted to have some difficulties with boundaries, hugging 
female peers despite requests from staff not to do so. 
- After discussion of the risks and benefits, we initially 
started lithium for mood stabilization and patient was initially 
in agreement with a trial. Lithium was started at 300 mg po bid, 
but he then later refused this medication, stating he did not 
believe he needed it. 
-After discussion of the risks and benefits, we also started 
Valium 5 mg po qhs and 2.5 mg po tid prn anxiety/agitation. He 
tolerated this well with improvement in anxiety and insomnia at 
night. 
- After discussion of the risks and benefits of risperidone, we 
initiated a trial of risperidone 0.5 mg po bid in addition to 
0.5 mg po tid-- however, after initially consenting to this 
medication, he later refused, stating he did not wish to take 
the medication.
- Prior to discharge, patient stated he did not want to take 
medications and would prefer to have an outpatient evaluation 
with plan to reduce his stressors. Had family meeting prior to 
discharge, and his father was in agreement with the plan for 
outside psychiatry appointment following discharge. Discussed 
risks and benefits of further hospitalization as well as my 
recommendation for further observation and consideration of 
medications, but father and patient declined. Of note, patient 
had capacity to refuse medication and to refuse further 
hospitalization. Discussed recommendation to call ___ or have 
patient brought back to the hospital should his condition 
worsen. 
 .
#Medical: No acute medical issues during this hospitalization 

 
Medications on Admission:
None
 
Discharge Medications:
1.  Diazepam 5 mg PO QHS 
RX *diazepam 5 mg 1 tablet by mouth at bedtime Disp #*20 Tablet 
Refills:*0 
2.  Diazepam 2.5 mg PO DAILY PRN anxiety  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified mood disorder, r/o bipolar affective disorder 

 
Discharge Condition:
A: Well-groomed, appears stated age, good hygiene
B: Cooperative, pleasant, no psychomotor agitation/retardation
S: Rapid, loud. No longer pressured
M: Good
Affect: Euphoric
TP: Linear, goal oriented
TC: No SI, HI, AVH. No evidence of delusions or paranoia
C: Awake, alert, and oriented x 3
I/J: fair/fair

 
Discharge Instructions:
You were hospitalized at ___ for concern for mania.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___